US07482341B2
Step B]: 5-Ethoxymethyl-6-methyl-pyridin-2-ylamine
This material was prepared in analogy to example 86 step B] from N-(5-ethoxymethyl-6-methyl-pyridin-2-yl)-2,2-dimethyl-propionamide (0.32 g) and 3M aqueous NaOH (2.62 mL) as a yellow oil (0.28 g) that was used directly in the next step.

reactant | N-(5-ethoxymethyl-6-methyl-pyridin-2-yl)-2,2-dimethyl-propionamide | 0.32 g | C(C)OCC=1C=CC(=NC1C)NC(C(C)(C)C)=O | C14H22N2O2
reactant | NaOH | 3M, 2.62 mL, 0.28 g | [OH-].[Na+]
product | 5-Ethoxymethyl-6-methyl-pyridin-2-ylamine | C(C)OCC=1C=CC(=NC1C)N | C9H14N2O
